US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-2-(2-chloro-phenyl)-1-phenyl-ethanol
The procedure for the synthesis of example 1a, 1-(4-Benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol, was followed using 2-chlorobenzyl chloride (available from Aldrich Chemical Company) as starting material and making non-critical variations, to yield the title compound. FIA [M+H]+=408 and 410.

reactant | 1-(4-Benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC=CC=C1 | C26H29NO3
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
product | 1-(4-Benzyl-morpholin-2-yl)-2-(2-chloro-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)Cl)(O)C1=CC=CC=C1 | C25H26ClNO2
